Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dilaudid (PF) / Iodine
 
Attending: ___.
 
Chief Complaint:
Right intertrochanteric hip fracture
 
Major Surgical or Invasive Procedure:
Open reduction internal fixation right intertrochanteric hip 
fracture with TFN (___)

 
History of Present Illness:
___ transferred from OSH with right femoral IT fracture and
right olecranon fracture by OSH imaging after fall overnight. Pt
reports he woke up in the middle of the night to use the 
bathroom
and experienced any episode of lightheadedness and presyncope
with resultant fall onto his right side. +LOC, unknown head
strike, NCHCT/cspine cleared by OSH imaging. At time of
evaluation patient denies fever/chills, headache,
lightheadedness, chest pain, shortness of breath, n/v, abd pain,
dysuria, rash, edema. He endorses right elbow pain and right hip
pain with movement, minimal at rest, but unable to ambulate.
Previously fully ambulatory without use of a cane or walker. Pt
not experiencing any numbness or tingling of extremities.

 
Past Medical History:
CAD MI in ___ s/p right coronary stents, hypercholesterolemia 
prostate cancer s/p TURP and radiation c/b radiation cystitis 
with recurrent episodes of hematuria weekly
 
Social History:
___
Family History:
Family history is notable for coronary artery disease in both 
his mother and father who passed from myocardial infarctions. 
There is no family history of any aneurysmal disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Gen: elderly male no acute distress
Neuro: somnolent but arousable
CV: palpable distal pulses bilaterally
Pulm: no respiratory distress on room air
RUE: in sling, minimal swelling, ecchymosis, SILT MRU, fires 
EPL/FPL/DIO, palpable radial pulse
RLE: dressing CDI, SILT ___, fires ___, 
palpable DP

DISCHARGE PHYSICAL EXAM:
========================
Vitals: Afebrile, BP 150s-160s/60s-70s, HR ___, RR 18, room air
Tele: NSR with some PACs. No tachy/bradyarrhythmias.
General: frail, but alert without acute distress
Neck: No JVP elevation, no LAD
HEENT: NC/AT, pale, PERRL, sclerae anicteric, EOMI grossly 
intact, dry mucus membrane  
CV: RRR, no m,r,g 
Lungs: CTAB, no w,r,r
Abdomen: soft, NTTP, ND, NBS 
Ext: surgical dressing clean and intact on RLE, SCDs in place, 
no lower extremity edema, dressing c/d/i RUE forearm
Neuro: Alert and oriented x3, able to say DOWB. Grabs hands with 
___ strength, able to wiggle toes bilaterally.
Skin: no appreciable ulcers, no ___ edema, echymoses bilateral 
arms and upper back. Crusty, dry skin
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:00AM BLOOD WBC-6.5 RBC-3.26* Hgb-9.8* Hct-30.9* 
MCV-95# MCH-30.1# MCHC-31.7* RDW-15.1 RDWSD-52.7* Plt Ct-51*
___ 10:00AM BLOOD Neuts-79.7* Lymphs-9.6* Monos-8.8 
Eos-0.8* Baso-0.5 Im ___ AbsNeut-5.16 AbsLymp-0.62* 
AbsMono-0.57 AbsEos-0.05 AbsBaso-0.03
___ 10:00AM BLOOD ___ PTT-26.9 ___
___ 10:00AM BLOOD Glucose-177* UreaN-31* Creat-0.9 Na-140 
K-4.4 Cl-106 HCO3-23 AnGap-15
___ 06:25AM BLOOD ALT-14 AST-32 LD(LDH)-372* AlkPhos-55 
TotBili-0.8
___ 10:00AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.1
___ 09:40AM URINE Color-Yellow Appear-Clear Sp ___
___ 09:40AM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 09:40AM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-<1

IMPORTANT LABS:
===============
___ 06:05AM BLOOD LD(LDH)-570*
___ 06:40AM BLOOD LD(LDH)-432*
___ 10:00AM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD TSH-2.0

MICRO LABS:
===========
___ BLOOD CULTURE Blood Culture, Routine-PENDING
___ BLOOD CULTURE Blood Culture, Routine-PENDING
___ URINE URINE CULTURE-FINAL/NEGATIVE
___ URINE URINE CULTURE-FINAL/NEGATIVE

IMAGES:
=======
CT chest w/o contrast (___): 1.  No acute fracture within the 
chest cage.  Stable anterior wedge compression deformity of the 
T10 vertebral body. 2.  Probable small hematoma along the medial 
aspect of the left scapula. MInmal soft tissue edema.  No 
underlying fracture of the scapula. 3.  Coronary 
atherosclerosis. 4.  Moderately severe emphysema. 5. 
Cholelithiasis. 

CT abdomen/pelvis w/o contrast (___): 1.  Right 
intertrochanteric fracture as described above. 2.  Degenerative 
changes of the hip joints bilaterally.

Hip unilateral 2 views (___): Intraoperative images 
demonstrate placement of a short intramedullary rod with gamma 
nail and distal interlocking screw fixating an intertrochanteric 
fracture of the right femur.  There is improved anatomic 
alignment.  The total intraservice fluoroscopic time was 91.3 
seconds.  Please refer to the operative note for additional 
details. 

CXR (___): No comparison.  Lung volumes are normal.  
Borderline size of the cardiac silhouette without pulmonary 
edema.  Areas of atelectasis and non characteristic scarring at 
the bases of the right lung have been documented in a previous 
CT examination from ___.  No new opacities are 
noted. No larger pleural effusions.  Normal hilar and 
mediastinal contours. 

CT head w/o contrast (___): 1. No acute intracranial 
abnormality.  No evidence of hemorrhage. 2. There are small 
chronic cerebellar infarcts, stable since ___ 3. 
There is moderate paranasal sinus disease, mildly worsened. 

DISCHARGE LABS:
===============
___ 06:40AM BLOOD WBC-3.1* RBC-2.57* Hgb-7.6* Hct-24.3* 
MCV-95 MCH-29.6 MCHC-31.3* RDW-15.9* RDWSD-53.9* Plt Ct-61*
___ 06:40AM BLOOD Plt Ct-61*
___ 06:40AM BLOOD Glucose-116* UreaN-26* Creat-0.9 Na-138 
K-4.4 Cl-104 HCO3-18* AnGap-20
___ 06:40AM BLOOD LD(LDH)-432*
___ 06:40AM BLOOD Calcium-8.1* Phos-3.1 Mg-2.1
 
Brief Hospital Course:
This is a ___ year old male with a past medical history of 
coronary artery disease (s/p RCA stent), ascending aortic 
aneurysm (s/p repair), who was transferred here with a right 
femoral IT fracture (had TFN on ___ and right olecranon 
fracture (closed management) after a fall.

The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a right intertrochanteric hip fracture and a 
nondisplaced right olecranon fracture and was admitted to the 
orthopedic surgery service. The patient was taken to the 
operating room on ___ for open reduction internal fixation 
of right hip fracture with TFN, which the patient tolerated 
well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient was given ___ antibiotics and 
anticoagulation per routine. The patient's home medications were 
continued throughout this hospitalization. The patient worked 
with ___ who determined that discharge to rehab was appropriate. 
He was noted to thrombocytopenic and his lovenox was held when 
his platelets were < 50. On ___, patient's stool was guiac 
positive with a hematocrit of 24.6. He was transferred to the 
medicine service for somnolence and hypoactive delirium. His 
mental status waxed and waned from A+Ox3 and able to say days of 
week backwards to being somnolent and only able to arouse with 
pain. His vitals were always stable at this time. He had a 
negative infectious work-up (CXR, urine culture, blood cultures 
without growth to date). He also had a CT head given his low 
platelets, but this showed no concerning intracranial 
abnormality and no concern for hemorrhage. For the fall that 
originally caused his fractures, he was on telemetry which 
showed normal sinus rhythm without evidence of 
bradycardia/tachyarrhythmia. He had negative orthostatics and a 
normal neurological exam. It was thought that his fall was 
likely secondary to either orthostatic hypotension (he has a 
history of this) or vasovagal (he was going to the bathroom at 
the time).

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
weight-bearing as tolerated in the right lower extremity and 
right upper extremity, and will be discharged on lovenox for DVT 
prophylaxis. The patient will follow up with Dr. ___ 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

#Delirium: 
He had hypoactive delirium post-operatively. This was most 
likely secondary to post-the operation and anesthesia. His CXR 
(___) was negative for PNA, UA neg for infxn process, UCx 
negative/BCx without growth to date. His electroltes/LFTs/TSH 
were unremarkable and his EKG was largely unchanged. He did 
appear dry on exam, though labs were not consistent wfor 
hypovolemia apart from a mildly elevated BUN. He had a CTHNC 
(___) without evidence of intracranial abnormality.
 
#Hypertension:
His BP has been intermittently in 170s/60s. He is on atenolol at 
home (atenolol 50 mg qd and 25 mg qhs) and has been on quinapril 
in the past. However, his PCP took him off of this due to his 
history of orthostatic hypotension. He was continued on his home 
atenolol.

#Fall: 
The differential for his fall would include orthostatic 
hypotension given his self-reported history vs. a syncopal 
event, given that he presented with a report of presyncopal 
symptoms. His EKG shows NSR. His CTHNC (___) was without 
evidence of intracranial abnormality and telemetry (48 hours) 
was negative for arrhythmia.

#Leukopenia:
His WBC was 2.5 on ___. Differential included infection vs. 
malignancy since he is now pancytopenic (although he has other 
reasons for anemia). His WBC was uptrending upon discharge.

#Coronary artery disease: 
Patient has a history of coronary artery disease with history of 
PCI (RCA) and AAA repair (___). During this hospitalization, he 
was without chest pain or findings concerning for underlying 
cardiac etiology of this fall. He was continued on his home 
atenolol and crestor. 
 
#Anemia: 
His admission H/H was 9.2/28.9, slowly downtrending. He received 
2 uPRBC post-operatively. This was thought to be likely related 
to post operative blood loss, but was also guaiac positive on 
___ and has history of GIB. His hemoglobin remained stable ___ 
upon discharge.

#Thrombocytopenia: 
Acute-on-chronic thrombocytopenia is slightly worse than prior, 
now with platelets in the ___, from a recent baseline around 
50 but with a more remote baseline in the 100s (___). 
Kappa/lambda ratio normal. His platelets improved to ___ upon 
discharge.

TRANSITIONAL ISSUES:
====================
-Please follow-up with orthopedics and your primary care 
physician
-___ will ___ with Dr ___ RUE/RLE fractures
-New medications: Lovenox 30 mg SC qd, Tylenol 1 g TID, Colace, 
senna.
-He has thrombocytopenia. Please hold his lovenox if his PLT < 
50. Please check CBCs every ___ days to ensure Plts>50
-He has a history of orthostatic hypotension. Consider switching 
his beta-blocker to an ACE inhibitor as tolerated. Consider 
gentle IVF if having any signs of orthostatic hypotension
-Discontinue lovenox 2 weeks post-op (___)
-He has had positive fecal occult blood and melena while here. 
His hgb has remained stable and he had no signs or symptoms of 
upper GIB, but consider PPI or endoscopy for further work-up.
-Please repeat cbc every ___ days and hold lovenox per above. 
His hgb on discharge was 7.6 and his plt were 61. Has known 
anemia/thrombocytopenia at baseline
-Pt had episode of hypoactive delirium, thought ___ post-op 
delirium, self-resolved w/o intervention

-Code status: DNR/DNI
-Contact: ___. Phone number: ___
 
Medications on Admission:
Cyanocobalamin 1000 mcg PO DAILY  
Atenolol 50 mg PO DAILY  
Atenolol 25 mg PO QHS  
Calcium Carbonate 500 mg PO TID  
Fluticasone Propionate NASAL 1 SPRY NU BID  
FoLIC Acid 1 mg PO DAILY  
Multivitamins 1 TAB PO DAILY  
Rosuvastatin Calcium 20 mg PO QPM  
TraZODone 25 mg PO HS:PRN insomnia  
Vitamin D 800 UNIT PO DAILY  
 
Discharge Medications:
1.  Acetaminophen 650 mg PO 5X/DAY  
2.  Docusate Sodium 100 mg PO BID  
3.  Enoxaparin Sodium 40 mg SC Q24H 
Start: ___, First Dose: Next Routine Administration Time  
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN pain  
5.  Senna 17.2 mg PO HS  
6.  Cyanocobalamin 1000 mcg PO DAILY  
7.  Atenolol 50 mg PO DAILY  
8.  Atenolol 25 mg PO QHS  
9.  Calcium Carbonate 500 mg PO TID  
10.  Fluticasone Propionate NASAL 1 SPRY NU BID  
11.  FoLIC Acid 1 mg PO DAILY  
12.  Multivitamins 1 TAB PO DAILY  
13.  Rosuvastatin Calcium 20 mg PO QPM  
14.  TraZODone 25 mg PO HS:PRN insomnia  
15.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right intertrochanteric hip fracture

 
Discharge Condition:
Gen: no acute distress
Neuro: baseline mental status
Ambulatory status: with assist

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:
- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- weight-bearing as tolerated right lower extremity, 
weight-bearing as tolerated right upper extremity

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox daily for 2 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.
- Splint must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get splint wet
Physical Therapy:
WBAT right lower extremity, weight-bearing as tolerated right 
upper extremity, range of motion as tolerated right shoulder, 
elbow and wrist
Treatments Frequency:
Phsyical therapy, occupational therapy
 
Followup Instructions:
___